US06162824
To a mixture of 0.17 g (0.5 mmol) Nα -(9-fluorenylmethoxycarbonyl)-L-serine methyl ester, 0.043 g (0.6 mmol) potassium carbonate and 0.083 g (0.5 mmol) potassium iodide in acetonitrile (2 mL) was added 0.16 g (0.5 mmol) of 9-bromo-9-phenyl-9H-fluorene (Aldrich), and the mixture stirred at 40° C. for 2 h. Filtration and removal of the solvent under vacuo gave the crude Nα -(9-fluorenylmethoxycarbonyl)-O-(9-phenyl-9H-fluoren-9-yl)-L-serine methyl ester which was subjected to the Fmoc deprotection in Step 2 without further purification.

reactant | Nα -(9-fluorenylmethoxycarbonyl)-L-serine methyl ester | 0.5 mmol, 0.17 g | COC([C@@H](NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)CO)=O | C19H19NO5
reactant | potassium carbonate | 0.6 mmol, 0.043 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.5 mmol, 0.083 g | [I-].[K+]
reactant | 9-bromo-9-phenyl-9H-fluorene | 0.5 mmol, 0.16 g | BrC1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC=CC=C1 | C19H13Br
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | Nα -(9-fluorenylmethoxycarbonyl)-O-(9-phenyl-9H-fluoren-9-yl)-L-serine methyl ester | COC([C@@H](NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)COC1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC=CC=C1)=O | C38H31NO5
